US04792562
N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)-phenylacetamide hydrochloride
To a solution of N-(1H-pyrrol-1-yl)-4-pyridinamine (6 g) in 400 ml of dichloromethane containing sodium bicarbonate (6.3 g) was added a solution of phenylacetyl chloride (6.7 g) in 50 ml of dichloromethane. After stirring four hours at ambient temperature, the reaction mixture was evaporated, stirred with water and extracted with ether. The organic extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated to 11 g of an oil. This oil was purified by flash chromatography (silica, 25% ethyl acetate in dichloromethane) to give 10 g of an oil. This oil was converted to the hydrochloride salt in ethanol to give 10.4 g of crystals, d 203°-205°. A 3 g sample was recrystallized from ethanol-ether to give 2.8 g of needles, d 203°-204°.

reactant | N-(1H-pyrrol-1-yl)-4-pyridinamine | 6 g | N1(C=CC=C1)NC1=CC=NC=C1 | C9H9N3
reactant | sodium bicarbonate | 6.3 g | C([O-])(O)=O.[Na+]
reactant | phenylacetyl chloride | 6.7 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)-phenylacetamide hydrochloride | 10 g | Cl.N1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)N1C=CC=C1 | InChI=1S/C17H15N3O.ClH/c21-17(14-15-6-2-1-3-7-15)20(19-12-4-5-13-19)16-8-10-18-11-9-16;/h1-13H,14H2;1H
